US07795288B2
[3-(4-Isothiocyanato-phenoxy)-propyl]-dimethyl-amine
The title compound is prepared as described in Example 1 for 1-[2-(4 isothiocyanato-phenoxy)-ethyl]-pyrrolidine but using 4-(3-dimethylamino-propoxy)-phenylamine. Title compound: ES-MS: 237.1 [M+H]+; single peak at tR=6.91 min (System 1).

reactant | 1-[2-(4 isothiocyanato-phenoxy)-ethyl]-pyrrolidine | N(=C=S)C1=CC=C(OCCN2CCCC2)C=C1 | C13H16N2OS
reactant | 4-(3-dimethylamino-propoxy)-phenylamine | CN(CCCOC1=CC=C(C=C1)N)C | C11H18N2O
product | [3-(4-Isothiocyanato-phenoxy)-propyl]-dimethyl-amine | N(=C=S)C1=CC=C(OCCCN(C)C)C=C1 | C12H16N2OS
